US05208228
Step C: 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (80 mg) in acetonitrile (5 ml) was added a solution of 2% HF in aqueous acetonitrile (100 μl), and the mixture stirred at room temperature. After 24 hours, the solution was diluted with ethyl acetate, extracted with saturated sodium bicarbonate solution and the organic phase dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate: hexane (1:1)+1% methanol) gave the title compound (66 mg).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 80 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OCC=C)C)C)=O | C51H85NO11Si
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 μl | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 66 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OCC=C)C)C)=O | C45H71NO11
